US06121307
[3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy)propyl]amine
A solution of 2-(2-methoxy-phenoxy)propylamine (0.26 g, 1.2 mmol), 5-fluoro-3-(3-p-toluenesulfonyloxypropyl)indole (0.26 g, 0.81 mol) and triethylamine (0.13 g, 1.2 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 8 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×100 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride plus ammonium hydroxide) afforded 0.1 g (36%) of product of product as a yellow oil.

reactant | 2-(2-methoxy-phenoxy)propylamine | 1.2 mmol, 0.26 g | COC1=C(OC(CN)C)C=CC=C1 | C10H15NO2
reactant | 5-fluoro-3-(3-p-toluenesulfonyloxypropyl)indole | 0.81 mol, 0.26 g | FC=1C=C2C(=CNC2=CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C18H18FNO3S
reactant | triethylamine | 1.2 mmol, 0.13 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy)propyl]amine | 0.1 g, 36% | FC=1C=C2C(=CNC2=CC1)CCCNCC(C)OC1=C(C=CC=C1)OC | C21H25FN2O2
